US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-methylsulfonyloxybenzamide
A solution of 2-methanesulfonyloxybenzoic acid (0.30 g, 1.4 mmol; described in: Looker, J. H.; Hayes, C. H.; Thatcher, D. N. J. Am. Chem. Soc. 1957, 79, 741-4) in thionyl chloride (10 mL) was heated at 40° C. for 45 min. The excess of thionyl chloride was evaporated in vacuo, the residue was treated with toluene and again the solvent was removed in vacuo. Crude acid chloride (120 mg, 0.49 mmol) was dissolved in methylene chloride (5 mL) and added dropwise to an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.47 mmol) and triethylamine (98 μL, 0.72 mmol) in methylene chloride (20 mL). After the addition, the reaction was allowed to stir at ambient temperature for 15 min and was then washed with dilute aqueous sodium hydrogen carbonate. The phases were separated and the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:3) as the eluent. Yield: 110 mg (55%) of the title compound as white crystals: mp 144-145° C.; [α]21D -7.1° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 443 (10, M+).

reactant | 2-methanesulfonyloxybenzoic acid | 1.4 mmol, 0.30 g | CS(=O)(=O)OC1=C(C(=O)O)C=CC=C1 | C8H8O5S
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.47 mmol, 120 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.72 mmol, 98 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-methylsulfonyloxybenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=C(C=CC=C1)OS(=O)(=O)C)=O | C23H29N3O4S
